US04788195
2-[1-[4-[[4-(3-Pyridinyl)-2-pyrimidinyl]amino]phenyl]ethylidene]hydrazinecarboxamide
A 2.9 g portion of 1-[3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]ethanone was mixed with 1.23 g of semicarbazide hydrochloride in 200 ml of absolute ethanol and 1.10 ml of 10N sodium hydroxide was added. This mixture was refluxed overnight, then cooled to room temperature and the solid collected and washed with ethanol, water and ethanol. The solid was recrystallized from dimethylsulfoxide/ethanol, giving 2.9 g of the desired product, mp 256°-258° C.

reactant | 1-[3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]ethanone | N1=CC(=CC=C1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C(C)=O | C17H14N4O
reactant | semicarbazide hydrochloride | 1.23 g | Cl.NNC(=O)N
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10N, 1.10 ml | [OH-].[Na+]
product | 2-[1-[4-[[4-(3-Pyridinyl)-2-pyrimidinyl]amino]phenyl]ethylidene]hydrazinecarboxamide | 2.9 g | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)C(C)=NNC(=O)N | C18H17N7O
